US05688807
4-Cyclohexylphenylhydrazine hydrochloride (35.6 g) was prepared as described for 2-bromo-4-methyl-phenylhydrazine hydrochloride in Example 4, except using 4-cyclohexylaniline as starting material.

reactant | 2-bromo-4-methyl-phenylhydrazine hydrochloride | Cl.BrC1=C(C=CC(=C1)C)NN
reactant | 4-cyclohexylaniline | C1(CCCCC1)C1=CC=C(N)C=C1 | C12H17N
product | 4-Cyclohexylphenylhydrazine hydrochloride | 35.6 g | Cl.C1(CCCCC1)C1=CC=C(C=C1)NN | InChI=1S/C12H18N2.ClH/c13-14-12-8-6-11(7-9-12)10-4-2-1-3-5-10;/h6-10,14H,1-5,13H2;1H
